### PR TITLE
[Merged by Bors] - feat(MeasureTheory): prove that some equivalences are measure preserving

### PR DESCRIPTION
**Pull request by xroblot**
Construct measurable equivalence for the following equiv and then prove that they are measure preserving: 
- `Equiv.arrowProdEquivProdArrow`
- `Equiv.arrowCongr'`
- `Equiv.prodAssoc`

Also, we fix a typo in [MeasureTheory.measurePreserving_pi](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Constructions/Pi.html#MeasureTheory.measurePreserving_pi)

This PR is part of the proof of the Analytic Class Number Formula.

 ---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 1]
```diff
@@ -753,6 +753,34 @@ theorem volume_measurePreserving_piCongrLeft (α : ι → Type*) (f : ι' ≃ ι
...
+      (.pi fun i ↦ (μ i).prod (ν i))
+        ((Measure.pi fun i ↦ μ i).prod (Measure.pi fun i ↦ ν i)) where
+  measurable := (MeasurableEquiv.arrowProdEquivProdArrow α β γ).measurable
+  map_eq := by
+    refine (FiniteSpanningSetsIn.ext ?_ (isPiSystem_pi.prod isPiSystem_pi)
+      ((FiniteSpanningSetsIn.pi fun i ↦ (μ i).toFiniteSpanningSetsIn).prod
+      (FiniteSpanningSetsIn.pi (fun i ↦ (ν i).toFiniteSpanningSetsIn))) ?_).symm
+    · refine (generateFrom_eq_prod generateFrom_pi generateFrom_pi ?_ ?_).symm
+      exact (FiniteSpanningSetsIn.pi (fun i ↦ (μ i).toFiniteSpanningSetsIn)).isCountablySpanning
+      exact (FiniteSpanningSetsIn.pi (fun i ↦ (ν i).toFiniteSpanningSetsIn)).isCountablySpanning
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:769]: I hope the new linter will flag this as well, but it looks like you forgot some `·`s

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 2]
```diff
@@ -903,6 +931,28 @@ theorem volume_preserving_pi {α' β' : ι → Type*} [∀ i, MeasureSpace (α'
     MeasurePreserving (fun (a : (i : ι) → α' i) (i : ι) ↦ (f i) (a i)) :=
   measurePreserving_pi _ _ hf
 
+/-- Docstring. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:934]: Yes please, unless you're only adding it because `arrowCongr'` ends in a `'`, in which case you can use the `set_option` locally

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 3]
```diff
@@ -903,6 +931,28 @@ theorem volume_preserving_pi {α' β' : ι → Type*} [∀ i, MeasureSpace (α'
...
+    (hm : ∀ i, MeasurePreserving hβ (μ i) (ν (hα i))) :
+    MeasurePreserving (MeasurableEquiv.arrowCongr' hα hβ) (Measure.pi fun i ↦ μ i)
+      (Measure.pi fun i ↦ ν i) := by
+  classical
+  convert (measurePreserving_piCongrLeft (fun i : α₂ ↦ ν i) hα).comp
+    (measurePreserving_pi μ (fun i : α₁ ↦ ν (hα i)) hm)
+  simp only [MeasurableEquiv.arrowCongr', Equiv.arrowCongr', Equiv.arrowCongr, EquivLike.coe_coe,
+    MeasurableEquiv.coe_mk, Equiv.coe_fn_mk, MeasurableEquiv.piCongrLeft, Equiv.piCongrLeft,
+    Equiv.symm_symm_apply, Equiv.piCongrLeft'_symm, Equiv.symm_symm]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:947]: This `rfl` seems to indicate there's one or more missing lemmas

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 4]
```diff
@@ -903,6 +931,28 @@ theorem volume_preserving_pi {α' β' : ι → Type*} [∀ i, MeasureSpace (α'
...
+
+ /-- Docstring. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:949]: Idem

File: Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean [hunk 5]
```diff
@@ -468,6 +468,32 @@ lemma piCongrLeft_apply_apply {ι ι' : Type*} (e : ι ≃ ι') {β : ι' → Ty
     piCongrLeft (fun i' ↦ β i') e x (e i) = x i := by
   rw [piCongrLeft, coe_mk, Equiv.piCongrLeft_apply_apply]
 
+/-- The isomorphism `(γ → α × β) ≃ (γ → α) × (γ → β)` as a measurable equivalence. -/
+def arrowProdEquivProdArrow (α β γ : Type*) [MeasurableSpace α]
+    [MeasurableSpace β] :
```
Comment (Ruben-VandeVelde) [inline Mathlib/MeasureTheory/MeasurableSpace/Embedding.lean:473]:
```suggestion
def arrowProdEquivProdArrow (α β γ : Type*) [MeasurableSpace α] [MeasurableSpace β] :
```

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Constructions/Pi.lean:934]: Oh, somehow, the docstrings got lost on the way 😅 I'll fix that. Thanks!

Comment (xroblot) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]: I put some more descriptive docstrings.

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Constructions/Pi.lean]: I added some more lemmas to the `simp` and the `rfl` disappeared

**Comment by loefflerd** [comment]
This looks very reasonable to me, and it has been waiting a long while.

maintainer merge

File: Mathlib/MeasureTheory/Measure/Prod.lean [hunk 6]
```diff
@@ -691,6 +691,32 @@ protected theorem prod [SFinite μa] [SFinite μc] {f : α → β} {g : γ → 
...
+      (isPiSystem_measurableSet.prod (isPiSystem_measurableSet.prod isPiSystem_measurableSet))
+      (μa.toFiniteSpanningSetsIn.prod (μb.toFiniteSpanningSetsIn.prod μc.toFiniteSpanningSetsIn))
+        ?_).symm
+    · refine (generateFrom_eq_prod generateFrom_measurableSet
+        (generateFrom_eq_prod ?_ ?_ ?_ ?_) ?_ (IsCountablySpanning.prod ?_ ?_)).symm
+      any_goals exact generateFrom_measurableSet
+      all_goals exact isCountablySpanning_measurableSet
+    · rintro _ ⟨s, _, _, ⟨t, _, ⟨u, _, rfl⟩⟩, rfl⟩
+      rw [MeasurableEquiv.map_apply, MeasurableEquiv.prodAssoc, MeasurableEquiv.coe_mk,
+        Equiv.prod_assoc_preimage, prod_prod, prod_prod, prod_prod, prod_prod, mul_assoc]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Measure/Prod.lean:712]:
```suggestion
variable (μa μb μc) in
/-- The measurable equiv induced by the equiv `(α × β) × γ ≃ α × (β × γ)` is measure preserving. -/
theorem _root_.MeasureTheory.measurePreserving_prodAssoc [SFinite μa] [SFinite μb]
    [SFinite μc] :
    MeasurePreserving (MeasurableEquiv.prodAssoc : (α × β) × γ ≃ᵐ α × β × γ)
      ((μa.prod μb).prod μc) (μa.prod (μb.prod μc)) where
  measurable := MeasurableEquiv.prodAssoc.measurable
  map_eq := by
    ext s hs
    have A (x : α) : MeasurableSet (Prod.mk x ⁻¹' s) := measurable_prod_mk_left hs
    have B : MeasurableSet (MeasurableEquiv.prodAssoc ⁻¹' s) := 
      MeasurableEquiv.prodAssoc.measurable hs
    simp_rw [map_apply MeasurableEquiv.prodAssoc.measurable hs, prod_apply hs, prod_apply (A _),
      prod_apply B, lintegral_prod _ (measurable_measure_prod_mk_left B).aemeasurable]
    rfl
```
You can weaken the assumptions from `SigmaFinite` to `SFinite` (but for this you need to put it later in the file, because it uses `lintegral_prod`).

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!

File: Mathlib/MeasureTheory/Measure/Prod.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/MeasureTheory/Measure/Prod.lean:712]: Indeed (and in fact `lint` tells me that `SFinite μa` is not even needed). Thanks!
